US07091353B2
3-[(5-Carboxy-furan-2-ylmethyl)-amino]-phthalic acid
3-[(5-Carboxy-furan-2-ylmethyl)-amino]-phthalic acid dimethyl ester (0.90 g, 2.70 mmol) was treated in the same manner as described above for the synthesis of 3-(2-methoxy-ethylamino)-phthalic acid. The product of the reaction, which contained a mixture of diacid and monomethyl esters, was used without further purification.

reactant | 3-[(5-Carboxy-furan-2-ylmethyl)-amino]-phthalic acid dimethyl ester | 2.70 mmol, 0.90 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1OC(=CC1)C(=O)O)=O | C16H15NO7
reactant | 3-(2-methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
product | 3-[(5-Carboxy-furan-2-ylmethyl)-amino]-phthalic acid | C(=O)(O)C1=CC=C(O1)CNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C14H11NO7
